US06448242B1
Preparation of 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane hydrochloride
Concentrated hydrochloric acid (0.020 ml; 0.24 mmol) was added to a solution of 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane (46 mg; 0.061 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.24 mmol, 0.020 ml | Cl | ClH
reactant | 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane | 0.061 mmol, 46 mg | COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)CN(C)C | C44H57N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[1-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-4-piperidinyl]-2-[(dimethylamino)methyl]propane hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)CN(C)C | InChI=1S/C44H57N3O8.ClH/c1-45(2)31-36(25-32-17-21-46(22-18-32)41(48)15-11-9-13-34-27-37(50-3)43(54-7)38(28-34)51-4)26-33-19-23-47(24-20-33)42(49)16-12-10-14-35-29-39(52-5)44(55-8)40(30-35)53-6;/h11-12,15-16,27-30,32-33,36H,17-26,31H2,1-8H3;1H/b15-11+,16-12+;
